US09315864B2
Synthesis of 2,3,3-trimethyl-3H-thieno[2,3-g]indole-5-carboxylic acid BD:
Synthesis of 5-carboxy-2,3,3-trimethyl-1-(3-sulfonatopropyl)-3H-thieno[2,3-g]indol-1-ium BE: A solution of BD (210 mg, 0.81 mmole) and 1,3-propanesultone (530 mg, 4.3 mmole) in 0.4 mL sulfolane was heated at 180° C. for 1 hr and cooled down to 25° C. The reaction was diluted with 0.5 mL 6 N HCl and heated to 80° C. for 1 hr and cooled down to to 25° C. The solution was neutralized with 2N NaOH solution to pH 9. The product was purified by reverse phase HPLC eluted with a gradient of CH3CN over 0.1 N TEAB buffer. The yield of the desired product BE was 172 mg (44%).

reactant | 5-carboxy-2,3,3-trimethyl-1-(3-sulfonatopropyl)-3H-thieno[2,3-g]indol-1-ium | C(=O)(O)C=1C=C2C(C(=[N+](C2=C2C1SC=C2)CCCS(=O)(=O)[O-])C)(C)C | C17H19NO5S2
reactant | 1,3-propanesultone | 4.3 mmole, 530 mg | C1COS(=O)(=O)C1 | C3H6O3S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | sulfolane | 0.4 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | HCl | 6 N, 0.5 mL | Cl | ClH
product | 2,3,3-trimethyl-3H-thieno[2,3-g]indole-5-carboxylic acid | CC1=NC2=C3C(=C(C=C2C1(C)C)C(=O)O)SC=C3 | C14H13NO2S
